US08022062B2
3-tert-Butoxycarbonyl-6-dimethylcarbamoylthio-7-trifluoromethyl-2,3,4,5-tetrahydro-benzo[d]azepine:
To a stirred solution of 7-bromo-6-dimethylcarbamoylthio-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.383 g, 3.254 mmol), in NMP (40 ml) add sodium trifluoromethyl acetate (3.54 g, 26.03 mmol), copper(I) iodide (2.47 g, 13.0 mmol) and heat the mixture at 180° C. for 4 h. Cool to ambient temperature. Dilute with EtOAc, water and remove the copper solid residue by filtration. Separate the layers of filtrate and extract the aqueous layer three times with EtOAc. Dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (6:1) to give the desired intermediate as a yellow oil (882 mg, 74%).

reactant | 7-bromo-6-dimethylcarbamoylthio-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.254 mmol, 1.383 g | BrC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)SC(N(C)C)=O | C15H16BrF3N2O2S
reactant | sodium trifluoromethyl acetate | 26.03 mmol, 3.54 g | C(C)(=O)OC(F)(F)F.[Na]
reactant | water | O | H2O
solvent | NMP | 40 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 13.0 mmol, 2.47 g | [Cu]I
product | 3-tert-Butoxycarbonyl-6-dimethylcarbamoylthio-7-trifluoromethyl-2,3,4,5-tetrahydro-benzo[d]azepine | 882 mg, 74% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)C(F)(F)F)SC(N(C)C)=O | C19H25F3N2O3S
